US03980785
trans m-Chlorocinnamonitrile
m-Chlorobenzaldehyde (210.75 g; 1.5 m), cyanoacetic acid (127.5 g; 1.5 m) and pyridine (150 ml.) were refluxed for two days. The solution was evaporated to give an oil which was distilled to give a mixture of isomers (72% trans/23% cis; 5% aldehyde), Yield (129 g; 53%), b.p. 70°-85°C. at 0.8 mm. The material was dissolved in isopropanol and allowed to fractionally crystallise at 0°C. The solid was filtered and freeze-dried. Yield of pure trans isomer was 15 g (6.1%) b.p. 104°-106°C. at 1 mm; m.p. 26°-28°C.

reactant | m-Chlorobenzaldehyde | 210.75 g | ClC=1C=C(C=O)C=CC1 | C7H5ClO
reactant | cyanoacetic acid | 127.5 g | C(#N)CC(=O)O | C3H3NO2
reactant | pyridine | 150 ml | N1=CC=CC=C1 | C5H5N
solvent | isopropanol | C(C)(C)O | C3H8O
product | trans m-Chlorocinnamonitrile | ClC=1C=C(/C=C/C#N)C=CC1 | C9H6ClN
